* C:\Users\gavin\Documents\0Shared_Files\Personal_Projects\LTSPICE\oscillator.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N001 N006 1m
C1 N003 Vgnd 500n
C2 Vgnd N006 100n
Q1 N001 N005 N008 0 2N2222
R1 N008 Vgnd 750
R2 N001 N003 1
R3 N002 N001 1.75k
R4 N005 Vgnd 14.5k
R5 Vpos N005 35.5k
C3 N007 N006 1µ
L2 Vpos N002 1m
C4 N004 N001 1n
C5 N008 Vgnd 1µ
R6 N005 N007 10k
V2 Vpos Vgnd 5v
R7 Vpos 0 20k
R8 0 Vgnd 10k
X§U1 N004 out Vpos Vgnd out level2 Avol=1Meg GBW=1Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model NPN NPN
.model PNP PNP
.lib C:\Users\gavin\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10ms uic
.lib UniversalOpAmp2.lib
.backanno
.end
